US05635510
1.2 Synthesis of [3-(3,4-dichloro-phenyl)-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester (No.027F128)
3-Cyano-3-(3,4-dichloro-phenyl)-pentanedioic acid diethyl ester (10 g; 27.94 mmol) was dissolved in methanol (100 mL) and cobalt(II)chloride hexahydrate (13.2 g, 55.48 mmol) was added. The solution was then cautiously treated with one gram portions of sodium borohydride (11 g, 290 mmol) over 45 minutes at 20°-30° C. The solution was allowed to stir an additional 1.5 hours and the solution was concentrated in vacuo. The residue was partitioned between dichloromethane and 1N HCl the organic phase was and washed with 1N HCl (700 mL). The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel (600 g) with a gradient of 3% to 6% methanol in dichloromethane to give 7.514 g (85%) of the title compound.

reactant | 3-Cyano-3-(3,4-dichloro-phenyl)-pentanedioic acid diethyl ester | 27.94 mmol, 10 g | C(C)OC(CC(CC(=O)OCC)(C1=CC(=C(C=C1)Cl)Cl)C#N)=O | C16H17Cl2NO4
reactant | sodium borohydride | 290 mmol, 11 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
catalyst | cobalt(II)chloride hexahydrate | 55.48 mmol, 13.2 g | O.O.O.O.O.O.[Co](Cl)Cl
product | [3-(3,4-dichloro-phenyl)-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester | 7.514 g, 85% | C(C)OC(CC1(CNC(C1)=O)C1=CC(=C(C=C1)Cl)Cl)=O | C14H15Cl2NO3
